US04895860
Step (3) Preparation of 7-Chlorobenzofuran-3-one
According to the procedure of D. C. Schroeder, et al., J Org. Chem., 27, 586 (1962) a mixture of 2-carbomethoxy-7-chloro-3-hydroxybenzofuran (16.9 g, 0.075 mol), dioxane 75 mL), and 1N NaOH (375 mL, 0.375 mol) was stirred at room temperature for 2 days. The dioxane was removed under reduced pressure and the mixture was left standing for another day. Acidification with 2N HCl (270 mL, slowly) and filtration of the resulting precipitate gave a yellow solid (12.6 g). NMR analysis showed this material to be a 3:1 mixture of product and starting material. Purification by preparative HPLC gave a yellow solid (5.8 g, 46%), m.p. 108°-111° C.

reactant | 2-carbomethoxy-7-chloro-3-hydroxybenzofuran | 0.075 mol, 16.9 g | C(=O)(OC)C=1OC2=C(C1O)C=CC=C2Cl | C10H7ClO4
reactant | NaOH | 0.375 mol, 1N, 375 mL | [OH-].[Na+]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 7-Chlorobenzofuran-3-one | 12.6 g | ClC1=CC=CC=2C(COC21)=O | C8H5ClO2
